US04579862
A solution of 5-(4-methoxyphenyl)-2-[2-(4-methoxy phenyl)ethyl]pentanoic acid (20 g, 0.058 mol) in dry tetrahydrofuran (50 ml) was treated with a solution of diborane in tetrahydrofuran (100 ml of 1M, 0.1 mol) and left to stand at room temperature for 10 hours. The solvent was evaporated off under reduced pressure and the residue was acidified with hydrochloric acid (2N) and extracted with chloroform. The combined extracts were dried (Na2SO4) and the solvent was evaporated off under reduced pressure to give the crude product which was further purified by column chromatography (silica gel, ethyl acetate) to give 5-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)ethyl]-1-pentanol as a colourless oil.

reactant | 5-(4-methoxyphenyl)-2-[2-(4-methoxy phenyl)ethyl]pentanoic acid | 0.058 mol, 20 g | COC1=CC=C(C=C1)CCCC(C(=O)O)CCC1=CC=C(C=C1)OC | C21H26O4
reactant | diborane | B#B | B2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 mol, 1M, 100 ml | O1CCCC1 | C4H8O
product | 5-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)ethyl]-1-pentanol | COC1=CC=C(C=C1)CCCC(CO)CCC1=CC=C(C=C1)OC | C21H28O3
